US07202255B2
Step A: Phenyl 2,3-dihydro-4H-1,4-benzoxazin-3-one-4-carboxylate
Under an anhydrous atmosphere, a solution of 10 mmol of 2H-1,4-benzoxazin-3-one in 50 ml of tetrahydrofuran is cooled to −78° C. At that temperature, 11 mmol of a 1.6M solution of n-butyllithium in hexane are added dropwise. After being in contact for 30 minutes at −78° C., 11 mmol of phenyl chloroformate are added dropwise and stirring is carried out for a further 2 hours. After returning to ambient temperature, the solution is hydrolysed and then extracted with ethyl acetate. The organic phase is dried over magnesium sulphate, filtered and evaporated. After purification by chromatography over silica gel (petroleum ether/ethyl acetate: 8/2), the expected product is isolated.

reactant | 2H-1,4-benzoxazin-3-one | 10 mmol | O1CC(NC2=C1C=CC=C2)=O | C8H7NO2
reactant | n-butyllithium | C(CCC)[Li]
reactant | phenyl chloroformate | 11 mmol | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | Phenyl 2,3-dihydro-4H-1,4-benzoxazin-3-one-4-carboxylate | O1CC(N(C2=C1C=CC=C2)C(=O)OC2=CC=CC=C2)=O | C15H11NO4
